US05110955
A suspension of zirconocene dichloride (2.61 g; 8.9 mmol) in 1,2-dichloroethane was treated firstly with trimethylaluminium (10.9 ml; 114 mmol), then with a solution of 1-(3-butynyl)-3,6-dimethoxy-2,4,5-trimethylbenzene (10.6 g; 45.7 mmol) in 1,2-dichloroethane (60 ml). The mixture was heated to 50° C. for 46 hours, thereafter cooled to -40°, diluted with THF (20 ml), treated with 40 ml of a 1.6 molar n-butyllithium solution (in hexane) and finally with 4.37 g of paraformaldehyde. The resulting reaction mixture was stirred at room temperature for 20 hours and subsequently introduced into ice-cold 2N hydrochloric acid solution. The mixture was extracted twice with ether and the combined extracts were washed with water and dried. The oil which remained after removal of the solvent was purified on silica gel (eluent: hexane/ethyl acetate=2.5/1), yielding (E)-5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-3-methyl-2-penten-1-ol as a colourless oil which crystallized slowly at room temperature (m.p.: 46° C.).

reactant | trimethylaluminium | 114 mmol, 10.9 ml | C[Al](C)C
reactant | 1-(3-butynyl)-3,6-dimethoxy-2,4,5-trimethylbenzene | 45.7 mmol, 10.6 g | C(CC#C)C1=C(C(=C(C(=C1OC)C)C)OC)C | C15H20O2
reactant | n-butyllithium | 1.6 molar | C(CCC)[Li]
reactant | paraformaldehyde | 4.37 g | C=O | CH2O
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
reactant | 1,2-dichloroethane | 60 ml | ClCCCl | C2H4Cl2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | zirconocene dichloride | 8.9 mmol, 2.61 g | [Cl-].[Cl-].[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Zr+2]
product | (E)-5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-3-methyl-2-penten-1-ol | COC1=C(C(=C(C(=C1C)C)OC)C)CC/C(=C/CO)/C | C17H26O3
